US07256298B2
To a solution of 1.93 g (5.00 mmol) of 2-(5-difluoromethoxy-1-methyl-3-trifluoromethyl-1H-pyrazole-4-ylmethyl)-isothiourea hydrobromide in 10 ml of ethanol were added 0.83 g (6.00 mmol) of anhydrous potassium carbonate and 5 ml of water, followed by 30 minutes of stirring at room temperature. Thereto were added a solution of 0.95 g (5.00 mmol) of 3-ethanesulfonyl-5,5-dimethyl-2-isoxazoline in 5 ml of N,N-dimethylformamide and 0.83 g (6.00 mmol) of anhydrous potassium carbonate at room temperature, followed by further 3 hours of stirring at 50° C. After the completion of the reaction was confirmed, the solvent was removed by evaporation under reduced pressure. The obtained residue was poured into water and extracted with ethyl acetate. The resulting organic layer was washed with water and then dried over anhydrous magnesium sulfate. The solvent was removed by evaporation under reduced pressure and the residue was purified by silica gel column chromatography to obtain 1.55 g (yield: 86.1%) of 3-(5-difluoromethoxy-1-methyl-3-trifluoromethyl-1H-pyrazole-4-ylmethylthio)-5,5-dimethyl-2-isoxazoline.

reactant | 2-(5-difluoromethoxy-1-methyl-3-trifluoromethyl-1H-pyrazole-4-ylmethyl)-isothiourea hydrobromide | 5.00 mmol, 1.93 g | Br.FC(OC1=C(C(=NN1C)C(F)(F)F)CSC(N)=N)F
reactant | potassium carbonate | 6.00 mmol, 0.83 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 5 ml | O | H2O
reactant | 3-ethanesulfonyl-5,5-dimethyl-2-isoxazoline | 5.00 mmol, 0.95 g | C(C)S(=O)(=O)C1=NOC(C1)(C)C | C7H13NO3S
reactant | potassium carbonate | 6.00 mmol, 0.83 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 3-(5-difluoromethoxy-1-methyl-3-trifluoromethyl-1H-pyrazole-4-ylmethylthio)-5,5-dimethyl-2-isoxazoline | 1.55 g, yield: 86.1% | FC(OC1=C(C(=NN1C)C(F)(F)F)CSC1=NOC(C1)(C)C)F | C12H14F5N3O2S
